US05670505
To a mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(3-carboxypropyl)-2-(1H-indol-3-yl-methyl)piperazine (180 mg), 4-piperidinopiperidine (56 mg) and 1-hydroxybenzotriazole hydrate (45 mg) in dichloromethane (4 ml) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (64 mg) at ice-bath temperature. After stirring for 30 minutes, the reaction mixture was allowed to warm to room temperature and was stirred for 2 hours and 40 minutes. The reaction mixture was concentrated under reduced pressure and the resulting residue was partitioned between ethyl acetate and water. The organic layer was washed successively with aqueous saturated sodium bicarbonate and brine, and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by column chromatography on silica gel eluting with a mixture of dichloromethane and methanol (10:1) to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[3-(4,1'-bipiperidin-1-yl-carbonyl)propyl]-2-(1H-indol-3-yl-methyl)piperazine, which was converted to the corresponding dihydrochloride salt (0.18 g) by treatment with 4N hydrogen chloride in dioxane solution.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(3-carboxypropyl)-2-(1H-indol-3-yl-methyl)piperazine | 180 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCC(=O)O)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C26H25F6N3O3
reactant | 4-piperidinopiperidine | 56 mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
reactant | 1-hydroxybenzotriazole hydrate | 45 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 64 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[3-(4,1'-bipiperidin-1-yl-carbonyl)propyl]-2-(1H-indol-3-yl-methyl)piperazine | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCC(=O)N2CCC(CC2)N2CCCCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C36H43F6N5O2
